US06660878B2
A saturated solution in water is prepared from the ammonium chloride residue of the tribenzoyl phosphite synthesis as described in Example 4. This saturated solution is combined with the mother liquor from the crystallization of the phosphonomethylglycine as described in Example 4 and brought to pH 14 with excess sodium hydroxide solution. Then, ammonia is stripped from the reaction mixture using nitrogen and collected for gas analysis by means of GC (purity 99%). The combined dichloroethane phases from the hydrolysis are dried by distilling off the azeotrope dichloroethane/water. Dry ammonia is passed into the dichloroethane until all of the benzoic acid has been reacted to give ammonium benzoate, and the resulting suspension of ammonium benzoate in 1,2-dichloroethane is returned into the synthetic procedure.

reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tribenzoyl phosphite | P(OC(C1=CC=CC=C1)=O)(OC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O | C21H15O6P
solvent | water | O | H2O
product | ammonium benzoate | C(C1=CC=CC=C1)(=O)[O-].[NH4+] | InChI=1S/C7H6O2.H3N/c8-7(9)6-4-2-1-3-5-6;/h1-5H,(H,8,9);1H3
